US07001899B2
Preparation of isoquinoline-1-carboxylic acid {6-(benzoylamino-methyl)-1-[(2-ethoxy-5-oxo-tetrahydro-furan-3-ylcarbamoyl)-methyl]-2-oxo-2,3,4,7,-tetrahydro-1H-azepin-3-yl}-amide (32):
A catalytic amount of Pd(Ph3P)4 is added to a solution of (2-ethoxy-5-oxo-furan-3-yl)-carbamic acid allyl ester (100 mg, 0.43 mmol) and N,N-dimethylbarbituric acid (135 mg, 0.86 mmol) in CH2Cl2 (5 mL). The solution is stirred at room temperature for 15 minutes then {6-(benzoylamino-methyl)-3-[(isoquinoline-1-carbonyl)-amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic acid, 31, prepared in the previous step, is dissolved in CH2Cl2/DMF (2 mL of 1:1) and added. HOBt (54 mg, 0.40 mmol) and EDCl (77 mg, 0.40 mmol) are added and the solution stirred for 5 hours after which time it is diluted with EtOAc, washed with saturated NaHCO3 and brine, dried (Na2SO4), and concentrated in vacuo. The resulting residue is purified over silica (EtOAc/hexane) to afford the desired product.

reactant | (2-ethoxy-5-oxo-furan-3-yl)-carbamic acid allyl ester | 0.43 mmol, 100 mg | C(C=C)OC(NC=1C(OC(C1)=O)OCC)=O | C10H13NO5
reactant | {6-(benzoylamino-methyl)-3-[(isoquinoline-1-carbonyl)-amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic acid | C(C1=CC=CC=C1)(=O)NCC1=CCC(C(N(C1)CC(=O)O)=O)NC(=O)C1=NC=CC2=CC=CC=C12 | C26H24N4O5
reactant | HOBt | 0.40 mmol, 54 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 0.40 mmol, 77 mg | CCN=C=NCCCN(C)C.Cl
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 DMF | 2 mL | C(Cl)Cl.CN(C)C=O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(Ph3P)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | isoquinoline-1-carboxylic acid {6-(benzoylamino-methyl)-1-[(2-ethoxy-5-oxo-tetrahydro-furan-3-ylcarbamoyl)-methyl]-2-oxo-2,3,4,7,-tetrahydro-1H-azepin-3-yl}-amide | C(C1=CC=CC=C1)(=O)NCC1=CCC(C(N(C1)CC(NC1C(OC(C1)=O)OCC)=O)=O)NC(=O)C1=NC=CC2=CC=CC=C12 | C32H33N5O7
